US09303023B2
1-[2-(3-Methoxy-phenoxy)-ethyl]-1H-pyrazol-4-ylamine
To a solution of 1-(2-(3-methoxyphenoxy)ethyl)-4-nitro-1H-pyrazole (533 mg, 1.90 mmol), in EtOAc (2 mL, degassed) and EtOH (6 mL, degassed), PtO2 (42 mg, 0.19 mmol) was added and the reaction mixture was stirred at rt under a H2-atmosphere for 3 h. The mixture was diluted with EtOH, filtered over celite and the filter cake was rinsed with EtOH. The filtrate was concentrated to obtain the title compound as a pale brown oil. LC-MS conditions A: tR=0.53 min, [M+H]+=234.41.

reactant | 1-(2-(3-methoxyphenoxy)ethyl)-4-nitro-1H-pyrazole | 1.90 mmol, 533 mg | COC=1C=C(OCCN2N=CC(=C2)[N+](=O)[O-])C=CC1 | C12H13N3O4
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 6 mL | CCO | C2H6O
catalyst | PtO2 | 0.19 mmol, 42 mg | O=[Pt]=O
product | 1-[2-(3-Methoxy-phenoxy)-ethyl]-1H-pyrazol-4-ylamine | COC=1C=C(OCCN2N=CC(=C2)N)C=CC1 | C12H15N3O2
